US07285569B2
2-Acetyl-5-ethyl-7,7-dimethyl-1-(tetrahydro-pyran-2-yl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
2-Acetyl-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (11.7 g, 43.1 mmol) and p-toluenesulfonic acid monohydrate (0.82 g, 4.3 mmol) were dissolved in dichloromethane (200 mL). To this solution 3,4-dihydro-2H-pyrane (4.81 g, 56 mmol) was added and the mixture stirred at reflux for 24 h. The mixture was filtered, the filtrate washed with water (2×100 mL), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography on silica (dichloromethane/methanol 93:3) yielding 6.8 g (44%) of a light yellow solid.

reactant | 2-Acetyl-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 43.1 mmol, 11.7 g | C(C)(=O)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C15H17N3O2
reactant | p-toluenesulfonic acid monohydrate | 4.3 mmol, 0.82 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3,4-dihydro-2H-pyrane | 56 mmol, 4.81 g | O1CCCC=C1 | C5H8O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-Acetyl-5-ethyl-7,7-dimethyl-1-(tetrahydro-pyran-2-yl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 6.8 g, 44% | C(C)(=O)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1C1OCCCC1 | C20H25N3O3
